US04810713
Following the procedure of Example 2 and using potassium iodide catalyst, [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol and 2-(3-chloropropoxy)-1-benzyloxybenzene are reacted to give 1-[3-(2-benzyloxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol which is reacted with hydrogen over palladium on carbon catalyst to give the title compound.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 2-(3-chloropropoxy)-1-benzyloxybenzene | ClCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H17ClO2
catalyst | potassium iodide | [I-].[K+]
product | 1-[3-(2-benzyloxyphenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol | C(C1=CC=CC=C1)OC1=C(OCCCN2CCC(CC2)C(O)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=CC=C1 | C34H35F2NO3
